### PR TITLE
[Merged by Bors] - feat(Order): characterise compact elements in atomistic lattices

### PR DESCRIPTION
**Pull request by YaelDillies**
... as those elements that are the suprema of finitely many atoms.

Also make the type variable correctly implicit in most lemmas and move declarations out of the `CompleteLattice` namespace.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 1]
```diff
@@ -208,6 +207,16 @@ theorem isCompactElement_finsetSup {α β : Type*} [CompleteLattice α] {f : β
     specialize h d hemp hdir (le_trans (Finset.le_sup hps) hsup)
     simpa only [exists_prop]
 
+protected lemma IsCompactElement.iSup [Finite ι] (h : ∀ i, IsCompactElement (f i)) :
+    IsCompactElement (⨆ i, f i) := by
+  rw [← iSup_plift_down]
+  cases nonempty_fintype (PLift ι)
+  simpa [Finset.sup_eq_iSup]  using isCompactElement_finsetSup .univ fun i _ ↦ h i.down
```
Comment (eric-wieser) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
  simpa [Finset.sup_eq_iSup] using isCompactElement_finsetSup .univ fun i _ ↦ h i.down
```

**Comment by eric-wieser** [comment]
maintainer delegate

(CI is still broken)

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
